US07807686B2
To a solution of N-3-aminopropylpiperidine (1.4 g, 10 mmol) in dichloromethane (20 mL) was added DIEA (1.9 mL, 11 mmol) followed by slow addition of 4-methoxy benzoyl chloride (1.9 g, 11 mmol). The reaction mixture was stirred at room temperature for 18 h. The solution was washed with 1 N KOH (aq.) (1×20 mL) and brine (1×20 mL). The organic phase was dried (K2CO3) and concentrated in vacuo to afford 4-methoxy-N-(3-piperidin-1-ylpropyl)benzamide (1.9 g, 6.9 mmol, 69%) as an oil.

reactant | N-3-aminopropylpiperidine | 10 mmol, 1.4 g | NCCCN1CCCCC1 | C8H18N2
reactant | DIEA | 11 mmol, 1.9 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-methoxy benzoyl chloride | 11 mmol, 1.9 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-methoxy-N-(3-piperidin-1-ylpropyl)benzamide | 6.9 mmol, 1.9 g, 69% | COC1=CC=C(C(=O)NCCCN2CCCCC2)C=C1 | C16H24N2O2
